US04966891
5'-Deoxy-5-fluorocytidine (245 mg), benzoyl chloride (400 μl) and 4-dimethylaminopyridine (122 mg) were dissolved in dry pyridine (5 ml). After stirring for 3 hours at room temperature pyridine was removed under reduced pressure. The residue was partitioned between ethyl acetate and water. The ethyl acetate layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from methanol to give N4,2'-O,3'-O-tribenzoyl-5'-deoxy-5-fluorocytidine (280 mg), mp 158°~160° C.; MS 558 (MH+).

reactant | 5'-Deoxy-5-fluorocytidine | 245 mg | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)N | C9H12FN3O4
reactant | benzoyl chloride | 400 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | 4-dimethylaminopyridine | 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N4,2'-O,3'-O-tribenzoyl-5'-deoxy-5-fluorocytidine | 280 mg | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@H](OC(C3=CC=CC=C3)=O)[C@H](OC(C3=CC=CC=C3)=O)[C@@H](C)O2)C=C1F)=O | C30H24FN3O7
